* F:\Git Projects\EIT\P7---Bsc\PCB\ImpedanceAnalyzer\ADC Stuff\AntiAliasingFilter.asc
V1 N003 0 AC 1
R1 N004 N003 1k
R2 N005 N004 1k
C2 N005 0 3.06E-11
C1 N001 N004 2.08E-10
XU1 N005 N001 +5 -5 N001 level1 Avol=100Meg GBW=1000Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 0 -5 5
V3 +5 0 5
R3 N006 N001 1k
R4 N007 N006 1k
C3 N007 0 7.36E-11
C4 N002 N006 8.61E-11
XU2 N007 N002 +5 -5 N002 level1 Avol=100Meg GBW=1000Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.ac dec 1000 0.1 100Meg
.lib UniversalOpAmp1.lib
.backanno
.end
